simulator lang=spectre
_vVDD (Vdd 0) vsource dc=1.8 type=dc
_vGND (Gnd 0) vsource dc=0 type=dc
_vprech (prech 0) vsource data="pre_pattern" rptstart=1 rpttimes=0 val1=0 val0=1.8 delay=1n rise=1n fall=1n period=10n type=bit
_vWBL0 (WBL\\<0\\> 0) vsource data="wbl0_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vWBL50 (WBL\\<50\\> 0) vsource data="wbl50_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vWBL60 (WBL\\<60\\> 0) vsource data="wbl60_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vWBL75 (WBL\\<75\\> 0) vsource data="wbl75_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vWBL120 (WBL\\<120\\> 0) vsource data="wbl120_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vDATA_IN0 (DATA_IN\\<0\\> 0) vsource data="data_in0_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vDATA_IN15 (DATA_IN\\<15\\> 0) vsource data="data_in15_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
// _vBL0 (BL\\<0\\> 0) vsource data="bl0_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
// _vBL_bar0 (BL_bar\\<0\\> 0) vsource data="bl_bar0_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
// _vBL15 (BL\\<15\\> 0) vsource data="bl15_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
// _vBL_bar15 (BL_bar\\<15\\> 0) vsource data="bl_bar15_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vRWL0 (RWL\\<0\\> 0) vsource data="rwl0_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vRWL50 (RWL\\<50\\> 0) vsource data="rwl50_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vRWL60 (RWL\\<60\\> 0) vsource data="rwl60_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vRWL75 (RWL\\<75\\> 0) vsource data="rwl75_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
_vRWL120 (RWL\\<120\\> 0) vsource data="rwl120_pattern" rptstart=1 rpttimes=0 val1=1.8 val0=0 delay=1n rise=1n fall=1n period=10n type=bit
